US09315495B2
To a mixture of 10 mL anhydrous isopropanol and 5 mL anhydrous tetrahydrofuran under argon at room temperature was added sodium metal (350 mg, 15.22 mmol). The resulting mixture was stirred vigorously at 35° C. until all the sodium metal was consumed (ca. 20 minutes). Copper(I) iodide (386 mg, 2.03 mmol) and 2-iodothiophene (2.13 g, 10.14 mmol) were added and the resulting suspension heated to 90° C. and stirred vigorously for 16 h. After cooling to room temperature, 20 mL of 0.5 M potassium cyanide aqueous solution was added and the resulting mixture stirred for 30 minutes. Organics were extracted with hexanes (2×75 mL), washed with water (3×50 mL) and brine (50 mL), dried over magnesium sulfate, filtered and concentrated. The residue was subjected to chromatography on silica gel (100% hexanes) to give 2-isopropoxythiophene (250 mg, 16%). Used without further characterization.

reactant | isopropanol | 10 mL | C(C)(C)O | C3H8O
reactant | sodium | 15.22 mmol, 350 mg | [Na] | Na
reactant | 2-iodothiophene | 10.14 mmol, 2.13 g | IC=1SC=CC1 | C4H3IS
reactant | potassium cyanide | 0.5 M, 20 mL | [C-]#N.[K+]
catalyst | Copper(I) iodide | 2.03 mmol, 386 mg | [Cu]I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-isopropoxythiophene | 250 mg, 16% | C(C)(C)OC=1SC=CC1 | C7H10OS
